US07465795B2
4-amino-7-fluoro-8-(2,5-difluorophenyl)-N-propyl-cinnoline-3-carboxamide
Using method B, 4-amino-7-fluoro-8-iodo-N-propyl-cinnoline-3-carboxamide (150 mg, 0.40 mmol) and (2,5-difluorophenyl)boronic acid (519.0 mg, 3.29 mmol) were reacted to afford the title compound (50.5 mg, 35% yield) as an off-white solid. 1H NMR (300 MHz, CDCl3) δ 8.48 (bs, 1H), 7.96 (d×d, J=5.3 Hz, J=9.3 Hz, 1H), 7.55 (t, J=9.1 Hz, 1H), 7.13-7.23 (m, 3H), 3.45 (apparent q, J=6.9 Hz, J=13.1 Hz, 2H), 1.65 (apparent sextet, J=7.3 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H). MS APCI, m/z=361 (M+H) HPLC 2.98 min.

reactant | 4-amino-7-fluoro-8-iodo-N-propyl-cinnoline-3-carboxamide | 0.40 mmol, 150 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NCCC | C12H12FIN4O
reactant | (2,5-difluorophenyl)boronic acid | 3.29 mmol, 519.0 mg | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
product | 4-amino-7-fluoro-8-(2,5-difluorophenyl)-N-propyl-cinnoline-3-carboxamide | 50.5 mg, 35% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=CC(=C1)F)F)C(=O)NCCC | C18H15F3N4O
